US04892578
A solution of 0.57 gram (0.0015 mole) of 2-[[4-[(2-carboxyphenylmethyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone in 100 mL of toluene was cooled in an ice bath, and, with stirring, 0.33 gram (0.0016 mole) of dicyclohexylcarbodiimide was added in one portion. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it was stirred for 16 hours. The resultant solid was collected by filtration to yield 0.60 gram of 2-[[4-[(1H-2-benzopyran-1-one-3-yl)amino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone; m.p. 175°-177° C.

reactant | 2-[[4-[(2-carboxyphenylmethyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | 0.0015 mole, 0.57 gram | C(=O)(O)C1=C(C=CC=C1)CC(=O)NC1=CC=C(C=C1)CN1OCC(C1=O)(C)C | C21H22N2O5
reactant | dicyclohexylcarbodiimide | 0.0016 mole, 0.33 gram | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[[4-[(1H-2-benzopyran-1-one-3-yl)amino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | 0.60 gram | C1(OC(=CC2=C1C=CC=C2)NC2=CC=C(C=C2)CN2OCC(C2=O)(C)C)=O | C21H20N2O4
